US06617339B1
3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one
3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one (WO 96/13502; 2.47 g, 6.25 mmol), 3-hydroxyisoxazole (580 mg, 6.86 mmol), and tributylphosphine (1.58 g, 7.8 mmol) were dissolved by stirring in dry tetrahydrofuran (100 ml) under nitrogen. The mixture was cooled in an ice-bath, and 1,1′-(azodicarbonyl)dipiperidine (1.96 g, 7.8 mmol) added dropwise over 10 minutes. The solution was stirred 18 hours, allowing the temperature to rise to ambient. Reduced azo compound was filtered off, and the solution evaporated to dryness and the residue triturated with ether. The residue was purified by chromatography on a silica flash column, eluting with a gradient from 50 to 75% EtOAc in isohexane. Relevant fractions were combined and evaporated to the product as an oil (1.31 g).

reactant | 3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one | 6.25 mmol, 2.47 g | [Si](C)(C)(C(C)(C)C)OC1CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C19H29FN2O4Si
reactant | 3-hydroxyisoxazole | 6.86 mmol, 580 mg | OC1=NOC=C1 | C3H3NO2
reactant | tributylphosphine | 7.8 mmol, 1.58 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 7.8 mmol, 1.96 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC1CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C22H30FN3O5Si
